US07507739B2
To a solution of 5-chloro-7-cycloheptyl-6-(2,6-difluoro-4-{3-[(4-methoxybenzyl)oxy]propoxy}phenyl)[1,2,4]triazolo[1,5-a]pyrimidine (56 mg, 0.1 mmol) in 4 mL of methylene chloride and 0.2 mL of water is added 2,3-dichloro-5,6-dicyano-1,4-bezoquinone (100 mg, 0.44 mmol). The mixture is stirred at room temperature for 20 minutes, then washed with saturated aqueous sodium bicarbonate solution (x2), dried over magnesium sulfate, and concentrated to a residue. The residue is chromatographed over silica gel, eluting with a gradient of 33% ethyl acetate in hexanes to 66% ethyl acetate in hexanes. Concentration provides 3-[4-(5-chloro-7-cycloheptyl[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)-3,5-difluorophenoxy]propan-1-ol as a light yellow solid (34 mg). MS: m/z 437.2 (M+H).

reactant | 5-chloro-7-cycloheptyl-6-(2,6-difluoro-4-{3-[(4-methoxybenzyl)oxy]propoxy}phenyl)[1,2,4]triazolo[1,5-a]pyrimidine | 0.1 mmol, 56 mg | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)OCCCOCC1=CC=C(C=C1)OC)F)C1CCCCCC1)N=CN2 | C29H31ClF2N4O3
reactant | 2,3-dichloro-5,6-dicyano-1,4-bezoquinone | 0.44 mmol, 100 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | water | 0.2 mL | O | H2O
product | 3-[4-(5-chloro-7-cycloheptyl[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)-3,5-difluorophenoxy]propan-1-ol | 34 mg | ClC1=NC=2N(C(=C1C1=C(C=C(OCCCO)C=C1F)F)C1CCCCCC1)N=CN2 | C21H23ClF2N4O2
